US07842688B2
6-[4-(4-Benzyloxyphenyl)piperidin-3-yloxymethyl]-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazine
0.090 g of benzyl 4-(4-benzyloxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate is dissolved in 3 ml of dioxane. 3 ml each of methanol and 40% KOH are added and the reaction mixture is stirred in a sealed flask at 100° C. over 3.5 hours. The reaction mixture is subsequently cooled to room temperature, diluted with 10 ml of water and extracted with tert-butyl methyl ether (3×30 ml). The combined organic phases are washed with 10 ml of water, then 10 ml of brine, dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F).

reactant | benzyl 4-(4-benzyloxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.090 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C39H44N2O6
reactant | methanol | 3 ml | CO | CH4O
reactant | KOH | [OH-].[K+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 6-[4-(4-Benzyloxyphenyl)piperidin-3-yloxymethyl]-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CNCC1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C31H38N2O4
